* C:\Users\Michael\Google Drive\Studium\SS20\HLST-Praktikum-Summer-2020\simulations\7_Leistungsendstufe\rückkopplung\MillerOP.asc
V1 N014 0 -15
R1 0 N011 1.33k
Q1 N011 N011 N012 0 BC547B
Q2 N010 N011 N013 0 BC547B
RE3 N012 N014 100
RE4 N013 N014 100
Q§T2 N006 N007 N010 0 BC547B
Q§T1 N004 UN N010 0 BC547B
V3 N008 0 SINE(0 0.1 1000) AC 1 180
V4 N001 0 15
Q§T3 N004 N004 N002 0 BC557B
Q§T4 N006 N004 N003 0 BC557B
RE1 N001 N002 33
RE2 N001 N003 33
Q§T5 N005 N006 N001 0 BC557B
RA N005 N014 2.2k
CM N005 N006 2.63n
XU1 N001 N005 N009 TIP122
XU2 N014 N005 N009 TIP127
R2 N009 UN 39k
R3 UN 0 1k
R4 N009 N014 8
R5 N007 0 1k
C1 N007 N008 8µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\Michael\Documents\LTspiceXVII\lib\cmp\standard.bjt
* .op
;tran 0 10ms 0 0.1u
.ac dec 10 1 1Meg
.lib TIP122.lib
.lib TIP127.lib
.backanno
.end
